US07507740B2
Production of N-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-2-(methylsulfonyl)acetamide
A mixture of 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride (150 mg), 2-(methylsulfonyl)acetic acid (79.6 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (166 mg), 1-hydroxybenzotriazole monohydrate (133 mg), triethylamine (0.40 mL) and N,N-dimethylformamide (5.0 mL) was stirred at room temperature for 20 hrs. Water was added to the reaction system and the mixture was extracted with ethyl acetate. The organic layer washed with water and saturated brine and dried over magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified by basic silica gel column chromatography (eluent, ethyl acetate→ethyl acetate:methanol=4:1). Crystallization from ethyl acetate-diisopropyl ether gave the title compound (128 mg) as colorless powder crystals.

reactant | 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 150 mg | Cl.Cl.NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl
reactant | 2-(methylsulfonyl)acetic acid | 79.6 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 166 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 133 mg | O.ON1N=NC2=C1C=CC=C2
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.40 mL | C(C)N(CC)CC | C6H15N
product | N-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-2-(methylsulfonyl)acetamide | 128 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCNC(CS(=O)(=O)C)=O | C24H21ClF3N5O4S
